US07329658B2
Preparation of Butyl-[7-(2-chlorophenyl)-8-(4-chlorophenyl)-2-methylpyrazolo[1,5-a][1,3,5]triazin-4-yl]-amine (7A-1)
To a mixture of butylamine (0.17 ml, 0.15 mmol) and diisopropylethylamine (0.037 ml, 0.21 mmol) in DMF (0.75 ml) was added a solution of 4-chloro-7-(2-chlorophenyl)-8-(4-chlorophenyl)-2-methylpyrazolo[1,5-a][1,3,5]triazine (I-2A-1b; 54 mg, 0.14 mmol) in DMF (1.3 ml). After stirring for 40 hours, the reaction was treated with water, dropwise, until a precipitate formed. After several more hours of stirring, the resultant solid was collected by vacuum filtration, and then washed with water and a small amount of isopropyl alcohol to afford 7A-1 (46 mg, 77%) as a solid: +APcI MS (M+1) 426.2; 1H NMR (400 MHz, CD3OD) δ 7.51-7.30 (m, 6H), 7.22-7.18 (m, 2H), 3.63 (t, J=7.1 Hz, 2H), 2.50 (s, 3H), 1.70 (quintet, J=7.3 Hz, 2H), 1.44 (hextuplet, J=7.5 Hz, 2H), 0.98 (t, J=7.5 Hz, 2H).

reactant | butylamine | 0.15 mmol, 0.17 ml | C(CCC)N | C4H11N
reactant | diisopropylethylamine | 0.21 mmol, 0.037 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-chloro-7-(2-chlorophenyl)-8-(4-chlorophenyl)-2-methylpyrazolo[1,5-a][1,3,5]triazine | 0.14 mmol, 54 mg | ClC1=NC(=NC=2N1N=C(C2C2=CC=C(C=C2)Cl)C2=C(C=CC=C2)Cl)C | C18H11Cl3N4
reactant | water | O | H2O
solvent | DMF | 0.75 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1.3 ml | CN(C)C=O | C3H7NO
product | Butyl-[7-(2-chlorophenyl)-8-(4-chlorophenyl)-2-methylpyrazolo[1,5-a][1,3,5]triazin-4-yl]-amine | C(CCC)NC1=NC(=NC=2N1N=C(C2C2=CC=C(C=C2)Cl)C2=C(C=CC=C2)Cl)C | C22H21Cl2N5
